Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]([C:3]([O:4][H:13])([H:11])[H:12])(=[C:5]=[O:6])[H:10],76.1388606368776
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2])[H:8].[N:3]#[N+:4][C:7](=[C:6]([O-:5])[H:9])[H:10],68.0494801994675
[O:1]([C:2]([C:3][C:4]([N:5]([C:6](=[O:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],25.056785452319403
[C:1]([O:2][C:3]([C+:4]=[C:6]=[N-:7])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],2.500260967921122
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5]([O:6][H:13])=[C:7]([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],45.9842318411873
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]([C@@:3]([C:2]([H:8])([H:9])[H:10])([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11])[H:7],67.3973945914647
[C:1]([C@:2]12[C@:3]3([H:11])[C:4]([H:12])([H:13])[C@@:7]1([H:15])[C@@:6]2([H:14])[C:5]3)([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],48.60893847907785
[C:1]([N:2]1[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[C:6][N:7]1[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],32.71880311738592
[C:1]([C@:2]1([H:10])[C:4]([H:12])([H:13])[C@:5]1([O:6][O:3][H:11])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],22.443690251658865
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N-:1]=[C:2]=[C:3]=[O+:6][C:5]([C:4]([H:7])([H:8])[H:9])([H:10])[H:11],72.2855749044156
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[N:4][H:13])([H:7])([H:8])[H:9].[C:5]=[N:6][H:14]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],27.70415122154801
[C:1](=[C:2]1[C@@:3]2([H:8])[C@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]2)([H:7])[H:9]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],80.36627139225789
[C:1](/[N+:2](=[C:6](/[C:7](=[C:3]=[N:4][N-:5][H:12])[H:14])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],109.36907915583112
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:13],72.80341968088649
[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([O:5][H:17])([H:13])[C:6]([H:15])([H:16])[O:7]1>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],53.37446458382691
[N:1]#[C:2][C-:3]([C:4][O:5][H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],25.775824378990094
[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:9])[C@:5]1([H:12])[C:4]([H:11])=[C:7]([H:13])[O:6]1)([H:8])[H:10],71.3876237353509
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C:3]([H:11])=[C:4]([O:5][H:13])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10],59.018545030545596
[H:8][H:9].[N-:1]=[C:2]1[C:3]([H:10])=[N+:4]([H:11])[C:5]([O:6][H:12])=[N:7]1>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],7.450549444577504
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:4]=[C:5]([C:3]([C+:2]=[C:6]=[N-:7])([H:8])[H:9])[H:10],97.53236427807708
[N:1]([C:2](=[C:3]=[C:4]([N+:6]#[C-:5])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],52.67333395243407
[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3](=[O:4])([H:11])[H:12].[C:5]([H:6])([H:13])([H:14])[H:15],78.12370265101059
[O:1]([C+:2]1[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C-:6]=[C:7]1[H:14])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],43.334965376770306
[C:1]([C+:2][N:4]([C:5]([N:6]([O-:3])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],17.118959496238986
[N:1]#[C:2][C:4](=[C:3]=[N:7][N:6]=[N:5][H:9])[H:8]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,60.867872523870396
